US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid
To a solution of 1-tert-butyl 3-methyl(3R,5S)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (1.715 g) in methanol (10 ml) was added 4N aqueous sodium hydroxide solution (10 ml), and the mixture was stirred at 65° C. for 30 min. The solvent was concentrated under reduced pressure, and the residue was neutralized with 10% aqueous citric acid solution. The mixture was extracted with ethyl acetate (20 ml×2) and the extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the object product (1.56 g) as an amorphous compound.

reactant | 1-tert-butyl 3-methyl(3R,5S)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 1.715 g | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C30H45N5O6
reactant | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 1.56 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CCCCOC)C1=CC=CC=C1)C(=O)O | C29H43N5O6
